US08217035B2
A solution of N-(6-chloro-2-morpholinopyrimidin-4-yl)-4-phenylthiazol-2-amine (15 mg, 0.040 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-4-(trifluoromethyl)pyridin-2-amine (23 mg, 0.080 mmol) and 1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride (6.6 mg, 0.0080 mmol) in 0.5 mL of 1,4-dioxane and 0.05 mL of 2 M aq. sodium carbonate was heated in the microwave at 120° C. for 600 seconds. The crude product was purified by reverse phase prep HPLC to give N-(6-(6-amino-4-(trifluoromethyl)pyridin-3-yl)-2-morpholinopyrimidin-4-yl)-4-phenylthiazol-2-amine. LC/MS (m/z): 500 (MH+), Rt 2.46 minutes.

reactant | N-(6-chloro-2-morpholinopyrimidin-4-yl)-4-phenylthiazol-2-amine | 0.040 mmol, 15 mg | ClC1=CC(=NC(=N1)N1CCOCC1)NC=1SC=C(N1)C1=CC=CC=C1 | C17H16ClN5OS
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-4-(trifluoromethyl)pyridin-2-amine | 0.080 mmol, 23 mg | CC1(OB(OC1(C)C)C=1C(=CC(=NC1)N)C(F)(F)F)C | C12H16BF3N2O2
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | sodium carbonate | 2 M, 0.05 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride | 0.0080 mmol, 6.6 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-(6-(6-amino-4-(trifluoromethyl)pyridin-3-yl)-2-morpholinopyrimidin-4-yl)-4-phenylthiazol-2-amine | NC1=CC(=C(C=N1)C1=CC(=NC(=N1)N1CCOCC1)NC=1SC=C(N1)C1=CC=CC=C1)C(F)(F)F | C23H20F3N7OS
